US05196610
1,1,1-Trifluoro-2-(4-ethoxyphenyl)-3-(3-phenoxy-4-fluorobenzyloxy)propan-2-ol (0.3 g), pyridine (1 cm3), acetic anhydride (10 cm3) and a catalytic amount of 4-N,N-dimethylaminopyridine (ca. 0.015 g) were mixed at the ambient temperature (ca. 22° C.), then heated at the reflux temperature for 6 hours. The mixture was allowed to stand overnight at the ambient temperature, and was then heated at reflux for a further 6 hours. Analysis by gas liquid chromatography showed 94% conversion to the product. Water was added and the product was extracted into diethyl ether (5×50 cm3). The combined ether layers were dried over anhydrous sodium sulphate and concentrated by evaporation under reduced pressure. The residual oil was purified by column chromatography on a silica gel support, eluted with n-hexane containing 12% by volume ethyl acetate, to give 1,1,1-trifluoro-2-acetoxy-3-(3-phenoxy-4-fluorobenzyloxy)propane (0.29 g) as a viscous oil.

reactant | 1,1,1-Trifluoro-2-(4-ethoxyphenyl)-3-(3-phenoxy-4-fluorobenzyloxy)propan-2-ol | 0.3 g | FC(C(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(O)C1=CC=C(C=C1)OCC)(F)F | C24H22F4O4
reactant | pyridine | 1 cm3 | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 10 cm3 | C(C)(=O)OC(C)=O | C4H6O3
solvent | Water | O | H2O
product | 1,1,1-trifluoro-2-acetoxy-3-(3-phenoxy-4-fluorobenzyloxy)propane | 0.29 g | FC(C(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)OC(C)=O)(F)F | C18H16F4O4
